US07592358B2
1-(2-{4-[3-fluoro-5-(4-methylcyclohex-1-enyl)pyridin-2-ylethynyl]phenoxy}ethyl)-4-methylpiperidin-4-ol
The product was prepared analogously to Example 48.1c from 130 mg (0.60 mmol) of 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine and 217 mg (0.60 mmol) of 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol (IP 15) (24 at RT, triethylamine as base). Yield: 15 mg (6% of theoretical); C28H33FN2O2 (M=448.572); calc.: molpeak (M+H)+:449; found: molpeak (M+H)+:449; HPLC-MS: 5.08 minutes (method H).

reactant | 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine | 0.60 mmol, 130 mg | C(#C)C1=NC=C(C=C1F)C1=CCC(CC1)C | C14H14FN
reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol | 0.60 mmol, 217 mg | IC1=CC=C(OCCN2CCC(CC2)(O)C)C=C1 | C14H20INO2
product | 1-(2-{4-[3-fluoro-5-(4-methylcyclohex-1-enyl)pyridin-2-ylethynyl]phenoxy}ethyl)-4-methylpiperidin-4-ol | FC=1C(=NC=C(C1)C1=CCC(CC1)C)C#CC1=CC=C(OCCN2CCC(CC2)(O)C)C=C1 | C28H33FN2O2
